US08580794B2
methyl 1,4-dioxaspiro[4.5]decane-7-carboxylate
Methyl 3-oxocyclohexanecarboxylate (930 mg) and pyridinium p-toluenesulfonate (299 mg) were combined in toluene (29.8 mL) to give a colorless solution. Ethylene glycol (0.996 mL) was added and the reaction was refluxed under Dean-Stark conditions for 2 days. The reaction was cooled to room temperature, triethylamine was added, and then the mixture was concentrated by rotary evaporation. The residue was purified by regular phase flash column chromatography (Analogix 0-40% hexane/ethyl acetate).

reactant | Methyl 3-oxocyclohexanecarboxylate | 930 mg | O=C1CC(CCC1)C(=O)OC | C8H12O3
reactant | pyridinium p-toluenesulfonate | 299 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | Ethylene glycol | 0.996 mL | C(CO)O | C2H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | 29.8 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 1,4-dioxaspiro[4.5]decane-7-carboxylate | O1CCOC12CC(CCC2)C(=O)OC | C10H16O4
